US09399646B2
Step 3: Diethyl 5-bromo-1H-indene-2,2(3H)-dicarboxylate
Sodium hydride (60% in mineral oil, 123 mg, 3.1 mmol) was added in small portions to EtOH (2 mL) in Et2O (6 mL) at room temperature under N2. After the addition was complete, the nearly clear and colorless solution was stirred for 5 min. To this solution, diethyl malonate (234 mg, 1.46 mmol) was added followed by the addition of 4-bromo-1,2-bis(bromomethyl)benzene (500 mg, 1.46 mmol). Immediately, a precipitate was formed, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was filtered, and the filtrate was concentrated. The residue was purified on silica gel column using 0-10% EtOAc in petroleum ether to afford the title compound (360 mg, 72%). 1HNMR (400 MHz, DMSO-d6): δ 7.44 (d, 1H), 7.35 (d, 1H), 7.20-7.18 (m, 1H), 4.15 (q, 4H), 3.48 (s, 2H), 3.43 (s, 2H), 1.16 (t, 6H).

reactant | Sodium hydride | 3.1 mmol, 123 mg | [H-].[Na+]
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | diethyl malonate | 1.46 mmol, 234 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-bromo-1,2-bis(bromomethyl)benzene | 1.46 mmol, 500 mg | BrC1=CC(=C(C=C1)CBr)CBr | C8H7Br3
solvent | Et2O | 6 mL | CCOCC | C4H10O
product | Diethyl 5-bromo-1H-indene-2,2(3H)-dicarboxylate | 360 mg, 72% | BrC=1C=C2CC(CC2=CC1)(C(=O)OCC)C(=O)OCC | C15H17BrO4
